* File     : P6KE.LIB
* Revision : 1.0
* Date     : June 2011
*
***************************************************************************************
* Information included is believed to be accurate and reliable. However, *
* ST Microelectronics assumes no responsibility for the consequences of  *
* use of such information nor for any infringement of patents or other   *
* rights of third parties which may result from its use. No license is   *
* granted by implication or otherwise under any patent patent rights of  *
* ST Microelectronics. Specification mentionned in this publication are  *
* subject to change without notice. This publication superseedes and 	 *
* replaces all information previously supplied. ST Microelectronics      *
* products are not authorized for use as critical components in life     *
* support or systems without express written approval of ST              *
* Microelectronics.                          	                         *
*                                                                    	 *			*
*    (c) 1997 ST Microelectronics. All rights reserved.     	         *
*                                                                    	 *			*
*           ST Microelectronics GROUP OF COMPANIES                       *
* Australia - Brazil - France - Germany - Hong Kong - Italy - Japan  	 *
* Korea - Malaysia - Malta - Morocco - The Netherlands - Singapore   	 *
* Spain - Sweden - Switzerland - Taiwan - United Kingdom - U.S.A.    	 *
*									 *
***************************************************************************************
*
* UNIDIRECTIONAL TRANSIL
*$
.SUBCKT TRANSIL  Anode  Cathode  PARAMS:
+ IRM=1u VBRnom=12  VBRmax=13  IR=1m 
+ VCLmax=20  Ipp=100  Cjof=1n
+ ISF=1f  NF=1  RSF=1m  IKFF=1000
* IRM		Stand-off current at VRM
* VBR		Breakdown voltage
* IR		Reverse current at VBR
* VCL		Clamping voltage
* Ipp		Surge current
* Cjo		junction capacitance at 0V
* IS		Saturation current
* N		Emission coefficient
* RS		Serie résistance
* IKF		High injection knee current
Drev    A_int    Cathode    TRANSR
Dfwd   Anode   Cathode    TRANSF
Dr       A_int    Anode       DTRANS
***** REVERSE BEHAVIOUR *****
.MODEL  TRANSR  D(
+ IS={IRM/2}   RS={(VCLmax-VBRmax)/Ipp}
+ BV={VBRnom}  IBV={IR}
+ IKF=1000  Cjo=1p  M=.3333  VJ=.6
+ ISR=1n  TT=1u )
****************** FORWARD BEHAVIOUR ******************
***** JUNCTION CAPACITANCE BEHAVIOUR Cj(VR) *****
.MODEL   TRANSF  D(
+ IS={ISF}  N={NF}  RS={RSF}  IKF={IKFF}
+ Cjo={Cjof}  M=.3333  VJ=0.6  ISR=1.000E-21
+ BV=1000  IBV=1n  TT=1u )
.MODEL   DTRANS  D(
+ IS=1n  N=.01  RS=1u  IKF=1000  Cjo=1p
+ M=.3333  VJ=.6  ISR=1n  BV=1000  IBV=1u
+ TT=1u )
.ENDS
*********** BIDIRECTIONAL TRANSIL **********
******** PARAMETERS DESCRIPTION ********
*********** LOW VOLTAGE ************
*$
.SUBCKT   TRANSILB   Anode1  Anode2   PARAMS:
+ IRM=1u VBRnom=12  VBRmax=13  IR=1m 
+ VCLmax=20  Ipp=100  Cjof=1n
+ ISBF=1f  NBF=1
***** SCHEMATICS DESCRIPTION *****
Drev1    A_int1     Cathode   TRANSR
Dfwd1   Anode1    Cathode  TRANSBF
Dr1       A_int1     Anode1    DTRANS
Drev2    A_int2     Cathode   TRANSR
Dfwd2   Anode2    Cathode   TRANSBF
Dr2       A_int2     Anode2     DTRANS
***** REVERSE BEHAVIOUR *****
.MODEL  TRANSR  D(
+ IS={IRM/2}   RS={(VCLmax-VBRmax)/Ipp}
+ BV={VBRnom}  IBV={IR}
+ IKF=1000  Cjo=1p  M=.3333  VJ=.6
+ ISR=1p  TT=1u )
***** JUNCTION CAPACITANCE BEHAVIOUR *****
.MODEL   TRANSBF   D(
+ IS={ISBF}  N={NBF}  RS=1u  IKF=1000
+ Cjo={Cjof}  M=.3333  VJ=.6  ISR=1p
+ BV=1000  IBV=100u  TT=1u )
.MODEL   DTRANS  D(
+ IS=1n  N=.01  RS=1u  IKF=1000  Cjo=1p
+ M=.3333  VJ=.6  ISR=1p  BV=1000  IBV=100u
+ TT=1u )
.ENDS
*********** HIGH VOLTAGE ************
*$
.SUBCKT   TRANSILBHT   Anode1  Anode2   PARAMS:
+ IRM=1u VBRnom=12  VBRmax=13  IR=1m 
+ VCLmax=20  Ipp=100  Cjof=1n
******* SCHEMATICS DESCRIPTION *******
Drev1    A_int1     Cathode   TRANSR
Dfwd1   Anode1    Cathode  TRANSBF
Dr1       A_int1     Anode1    DTRANS
Drev2    A_int2     Cathode   TRANSR
Dfwd2   Anode2    Cathode   TRANSBF
Dr2       A_int2     Anode2     DTRANS
********** REVERSE BEHAVIOUR **********
.MODEL  TRANSR  D(
+ IS={IRM/2}   RS={(VCLmax-VBRmax)/Ipp}
+ BV={VBRnom}  IBV={IR}
+ IKF=1000  Cjo=1p  M=.3333  VJ=.6
+ ISR=1p  TT=1u )
***** JUNCTION CAPACITANCE BEHAVIOUR *****
.MODEL   TRANSBF   D(
+ IS=1p  N=1  RS=1m  IKF=1000
+ Cjo={Cjof}  M=.3333  VJ=.6  ISR=1p
+ BV=1000  IBV=100u  TT=1u )
.MODEL   DTRANS  D(
+ IS=1p  N=1  RS=1m  IKF=1000  Cjo=1p
+ M=.3333  VJ=.6  ISR=1p  BV=1000  IBV=100u
+ TT=1u )
.ENDS
*************************************************************************************************
*				P6KE FAMILY					*
*************************************************************************************************
*$
.SUBCKT  P6KE6V8A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=1m  VBRnom=6.8  VBRmax=7.14
+ IR=10m  VCLmax=13.4  Ipp=298  Cjof=4000p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE6V8CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=1m  VBRnom=6.8  VBRmax=7.14
+ IR=10m  VCLmax=13.4  Ipp=298  Cjof=4000p
+ ISBF=1n  NBF=.01
.ENDS
*$
.SUBCKT  P6KE7V5A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=500u  VBRnom=7.5  VBRmax=7.88
+ IR=10m  VCLmax=14.5  Ipp=276  Cjof=3700p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE7V5CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=500u  VBRnom=7.5  VBRmax=7.88
+ IR=10m  VCLmax=14.5  Ipp=276  Cjof=3700p
+ ISBF=1n  NBF=.01
.ENDS
*$
.SUBCKT  P6KE10A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=10u  VBRnom=10  VBRmax=10.5
+ IR=1m  VCLmax=18.6  Ipp=215  Cjof=2800p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE10CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=10u  VBRnom=10  VBRmax=10.5
+ IR=1m  VCLmax=18.6  Ipp=215  Cjof=2800p
+ ISBF=1n  NBF=.01
.ENDS
*$
.SUBCKT  P6KE12A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=12  VBRmax=12.6
+ IR=1m  VCLmax=21.7  Ipp=184  Cjof=2300p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE12CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=5u  VBRnom=12  VBRmax=12.6
+ IR=1m  VCLmax=21.7  Ipp=184  Cjof=2300p
+ ISBF=1n  NBF=.01
.ENDS
*$
.SUBCKT  P6KE15A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=15  VBRmax=15.8
+ IR=1m  VCLmax=27.2  Ipp=147  Cjof=1900p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE15CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=5u  VBRnom=15  VBRmax=15.8
+ IR=1m  VCLmax=27.2  Ipp=147  Cjof=1900p
+ ISBF=1n  NBF=.01
.ENDS
*$
.SUBCKT  P6KE18A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=18  VBRmax=18.9
+ IR=1m  VCLmax=32.5  Ipp=123  Cjof=1600p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE18CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=5u  VBRnom=18  VBRmax=18.9
+ IR=1m  VCLmax=32.5  Ipp=123  Cjof=1600p
+ ISBF=1n  NBF=.01
.ENDS
*$
.SUBCKT  P6KE22A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=22  VBRmax=23.1
+ IR=1m  VCLmax=39.3  Ipp=102  Cjof=1350p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE22CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=5u  VBRnom=22  VBRmax=23.1
+ IR=1m  VCLmax=39.3  Ipp=102  Cjof=1350p
+ ISBF=1n  NBF=.01
.ENDS
*$
.SUBCKT  P6KE24A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=24  VBRmax=25.2
+ IR=1m  VCLmax=42.8  Ipp=93  Cjof=1250p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE24CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=5u  VBRnom=24  VBRmax=25.2
+ IR=1m  VCLmax=42.8  Ipp=93  Cjof=1250p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  P6KE27A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=27  VBRmax=28.35
+ IR=1m  VCLmax=48.3  Ipp=83  Cjof=1150p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE27CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=5u  VBRnom=27  VBRmax=28.35
+ IR=1m  VCLmax=48.3  Ipp=83  Cjof=1150p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  P6KE30A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=30  VBRmax=31.5
+ IR=1m  VCLmax=53.5  Ipp=76  Cjof=1075p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE30CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=5u  VBRnom=30  VBRmax=31.5
+ IR=1m  VCLmax=53.5  Ipp=76  Cjof=1075p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  P6KE33A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=33  VBRmax=34.65
+ IR=1m  VCLmax=59  Ipp=68  Cjof=1000p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE33CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=5u  VBRnom=33  VBRmax=34.65
+ IR=1m  VCLmax=59  Ipp=68  Cjof=1000p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  P6KE36A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=36  VBRmax=37.8
+ IR=1m  VCLmax=64.3  Ipp=62  Cjof=950p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE36CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=5u  VBRnom=36  VBRmax=37.8
+ IR=1m  VCLmax=64.3  Ipp=62  Cjof=950p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  P6KE39A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=39  VBRmax=40.95
+ IR=1m  VCLmax=69.7  Ipp=57  Cjof=900p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE39CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=5u  VBRnom=39  VBRmax=40.95
+ IR=1m  VCLmax=69.7  Ipp=57  Cjof=900p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  P6KE47A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=47  VBRmax=49.35
+ IR=1m  VCLmax=84  Ipp=48  Cjof=800p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE47CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=5u  VBRnom=47  VBRmax=49.35
+ IR=1m  VCLmax=84  Ipp=48  Cjof=800p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  P6KE56A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=56  VBRmax=58.8
+ IR=1m  VCLmax=100  Ipp=40  Cjof=700p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE56CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=5u  VBRnom=56  VBRmax=58.8
+ IR=1m  VCLmax=100  Ipp=40  Cjof=700p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  P6KE68A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=68  VBRmax=71.4
+ IR=1m  VCLmax=121  Ipp=33  Cjof=625p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE68CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=5u  VBRnom=68  VBRmax=71.4
+ IR=1m  VCLmax=121  Ipp=33  Cjof=625p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  P6KE82A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=82  VBRmax=86.1
+ IR=1m  VCLmax=146  Ipp=27  Cjof=550p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE82CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=5u  VBRnom=82  VBRmax=86.1
+ IR=1m  VCLmax=146  Ipp=27  Cjof=550p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  P6KE100A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=100  VBRmax=105
+ IR=1m  VCLmax=178  Ipp=22.5  Cjof=500p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE100CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=5u  VBRnom=100  VBRmax=105
+ IR=1m  VCLmax=178  Ipp=22.5  Cjof=500p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  P6KE120A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=120  VBRmax=126
+ IR=1m  VCLmax=212  Ipp=19  Cjof=450p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE120CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=5u  VBRnom=120  VBRmax=126
+ IR=1m  VCLmax=212  Ipp=19  Cjof=450p
.ENDS
*$
.SUBCKT  P6KE150A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=150  VBRmax=157.5
+ IR=1m  VCLmax=265  Ipp=15  Cjof=400p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE150CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=5u  VBRnom=150  VBRmax=157.5
+ IR=1m  VCLmax=265  Ipp=15  Cjof=400p
.ENDS
*$
.SUBCKT  P6KE180A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=180  VBRmax=189
+ IR=1m  VCLmax=317  Ipp=12.6  Cjof=360p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE180CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=5u  VBRnom=180  VBRmax=189
+ IR=1m  VCLmax=317  Ipp=12.6  Cjof=360p
.ENDS
*$
.SUBCKT  P6KE200A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=200  VBRmax=210
+ IR=1m  VCLmax=353  Ipp=11.3  Cjof=350p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE200CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=5u  VBRnom=200  VBRmax=210
+ IR=1m  VCLmax=353  Ipp=11.3  Cjof=350p
.ENDS
*$
.SUBCKT  P6KE220A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=220  VBRmax=231
+ IR=1m  VCLmax=388  Ipp=10.3  Cjof=330p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE220CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=5u  VBRnom=220  VBRmax=231
+ IR=1m  VCLmax=388  Ipp=10.3  Cjof=330p
.ENDS
*$
.SUBCKT  P6KE250A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=250  VBRmax=262.5
+ IR=1m  VCLmax=442  Ipp=9  Cjof=310p
+ ISF=27.04f   NF=2.032  RSF=27.38m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE250CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=5u  VBRnom=250  VBRmax=262.5
+ IR=1m  VCLmax=442  Ipp=9  Cjof=310p
.ENDS
*$
.SUBCKT  P6KE300A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=300  VBRmax=315
+ IR=1m  VCLmax=529  Ipp=7.6  Cjof=290p
+ ISF=27.04f   NF=2.032  RSF=27.38m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE300CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=5u  VBRnom=300  VBRmax=315
+ IR=1m  VCLmax=529  Ipp=7.6  Cjof=290p
.ENDS
*$
.SUBCKT  P6KE350A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=350  VBRmax=368
+ IR=1m  VCLmax=618  Ipp=6.5  Cjof=270p
+ ISF=27.04f   NF=2.032  RSF=27.38m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE350CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=5u  VBRnom=350  VBRmax=368
+ IR=1m  VCLmax=618  Ipp=6.5  Cjof=270p
.ENDS
*$
.SUBCKT  P6KE400A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=400  VBRmax=420
+ IR=1m  VCLmax=706  Ipp=5.7  Cjof=360p
+ ISF=27.04f   NF=2.032  RSF=27.38m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE400CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=5u  VBRnom=400  VBRmax=420
+ IR=1m  VCLmax=706  Ipp=5.7  Cjof=360p
.ENDS
*$
.SUBCKT  P6KE440A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=5u  VBRnom=440  VBRmax=462
+ IR=1m  VCLmax=776  Ipp=5.2  Cjof=350p
+ ISF=27.04f   NF=2.032  RSF=27.38m   IKFF=41.7
.ENDS
*$
.SUBCKT  P6KE440CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=5u  VBRnom=440  VBRmax=462
+ IR=1m  VCLmax=776  Ipp=5.2  Cjof=350p
.ENDS
